### PR TITLE
Universal arrows make constructors and Rezk completion of categories with terminal objects

### PR DESCRIPTION
**Pull request by ghost**
In this PR, constructors for displayed universal arrows have been added under some assumptions on the homotopy-level on each type of 2-cells. This is used to construct the Rezk completion of categories equipped with a terminal object, either given as structure or as a property.

### CODE REVIEW

File: UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v [hunk 1]
```diff
@@ -0,0 +1,297 @@
...
+    intro ; intros.
+    exists (tt,,tt).
+    intro.
+    use total2_paths_f ; apply iscontrunit.
+  Qed.
+
+  Let RR := (disp_psfunctor_on_cat_to_univ_cat D
+               (disp_2cells_isaprop_from_disp_2cells_iscontr _ disp_2cells_is_contr_have_terminal_obj)).
+
+  Lemma isaprop_isTerminal
```
Comment (nmvdw) [inline UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v:189]: Isn't this in limits/terminal.v?

File: UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v [hunk 2]
```diff
@@ -0,0 +1,297 @@
...
+  Let UnivCat := bicat_of_univ_cats.
+  Let Cat := bicat_of_cats.
+  Let R := univ_cats_to_cats.
+  Context (LUR : left_universal_arrow R).
+  Let η := (pr12 LUR).
+  Context (η_weak_equiv : ∏ C : category, is_weak_equiv (η C)).
+
+  Let D := disp_bicat_chosen_terminal_obj.
+
+  Lemma disp_2cells_is_contr_chosen_terminal_obj
```
Comment (nmvdw) [inline UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v:250]: Same comments for this section as for the previous.

**Review by nmvdw — APPROVED** [review]

File: UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v [hunk 3]
```diff
@@ -0,0 +1,297 @@
...
+      + set (t := counit_nat_z_iso_from_adj_equivalence_of_cats (pr22 LUR C1 C2)).
+        set (tg := nat_z_iso_pointwise_z_iso t F).
+        exact (nat_z_iso_from_z_iso (homset_property _) tg).
+      + apply η_weak_equiv.
+      + exact FF.
+  Defined.
+
+End LocallyContrWeakEquivalences.
+
+Section BicatOfCategoriesWithTerminalHasRezkCompletion.
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v:166]: A separate file might be best, which would collect the proofs of such statements. Most relevant lemmas will probably put in CategoryTheory, and the Rezk completion would then be an instantiation of these lemmas.

File: UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v (hunk 1 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v:189]: This is actually not available in UniMath currently. I did create it in this PR, but for some reason I forgot to remove it in this file.

File: UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v [hunk 4]
```diff
@@ -0,0 +1,297 @@
...
+    apply impred_isaprop ; intro
+    ; apply isapropiscontr.
+  Qed.
+
+  Definition cat_with_terminal_obj_has_RezkCompletion
+    : disp_left_universal_arrow LUR RR.
+  Proof.
+    use make_disp_left_universal_arrow_if_contr_CAT_from_weak_equiv.
+    - exact η_weak_equiv.
+    - intros C1 C2 C2_univ F Fw C1_term.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/Bicategories/PseudoFunctors/DisplayedUniversalArrowOnCat.v]: I agree; I have done this partially in the file CategoryTheory/WeakEquivalences.v. 
With future work in mind, I think it might be better to create a folder in Category named Weak Equivalences with a subfolder named "Preservation", do you think this is the best solution or just make a separate file for now (as you suggest)?
